US07625932B2
4-Cyano-1-methyl-3-[4-(2-nitro-phenoxy)-phenyl]-1H-pyrrole-2-carboxylic acid ethyl ester
Add together 4-cyano-3-(4-hydroxyphenyl)-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (prepared in example E-11) (600 mg, 2.22 mmol), 1-fluoro-2-nitrobenzene (313 mg, 1.0 Eq.), potassium fluoride/alumina (322 mg, 2.5 Eq.), and 18-crown-6 (60 mg, 0.1 Eq.) in acetonitrile (25 mL) and stir at reflux for 18 hours under a nitrogen atmosphere. Cool mixture and add water and methylene chloride (50 mL each) and stir vigorously. Separate layers and wash the organic layer once with water, dry over potassium carbonate, filter, and concentrate under reduced vacuum to give 762 mg as a dark solid. Purify the material by silica gel chromatography (Chromatotron™) eluting with methylene chloride to provide 602 mg of the title compound as a yellow solid. Mass spectrum (m/e): 392.2 (M*+1): (Bruker 300) 1NMR δ (CDCl3) 7.93-8.00 (1H, d), 7.50-7.57 (1H, t), 7.35-7.40 (2H, d), 7.19-7.29 (2H, m), 7.03-7.13 (2H, m), 4.05-4.20 (2H, dd), 3.95-4.10 (3H, s), 1.00-1.10 (3H, t).

reactant | 4-cyano-3-(4-hydroxyphenyl)-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 2.22 mmol, 600 mg | C(C)OC(=O)C=1N(C=C(C1C1=CC=C(C=C1)O)C#N)C | C15H14N2O3
reactant | 1-fluoro-2-nitrobenzene | 313 mg, 1.0 Eq. | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 18-crown-6 | 60 mg, 0.1 Eq. | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | water | O | H2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-Cyano-1-methyl-3-[4-(2-nitro-phenoxy)-phenyl]-1H-pyrrole-2-carboxylic acid ethyl ester | 602 mg | C(C)OC(=O)C=1N(C=C(C1C1=CC=C(C=C1)OC1=C(C=CC=C1)[N+](=O)[O-])C#N)C | C21H17N3O5
